2142-04-27 06:39:00 Physician Resident Progress Note
Chief Complaint: CC: Hip Pain
   [**Hospital Unit Name 44**] Admission: tachycardia s/p L THA
   24 Hour Events:
   Overnight events:
   - transfused 1 unit PRBCs
   - Bolused 500cc LR
   - HR trended down from 100 to 70s.
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-4-27**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 73 (73 - 111) bpm
   BP: 94/52(67) {84/52(65) - 126/76(96)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    412 mL
                                                                  1,021 mL
   PO:
             TF:
   IVF:
                                                                    112 mL
                                                                  1,021 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,350 mL
                                                                    175 mL
   Urine:
                                                                     50 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                     10 mL
   Balance:
                                                                   -938 mL
                                                                    846 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   10.6 g/dL
   126 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   14 mg/dL
   104 mEq/L
   135 mEq/L
   31.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2142-4-27**]  03:35 AM
   WBC
   9.0
   Hct
   31.6
   Plt
   194
   Cr
   0.7
   TropT
   0.02
   Glucose
   126
   Other labs: PT / PTT / INR:12.6//1.1, CK / CKMB /
   Troponin-T:415/5/0.02, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   81 yo F with h/o COPD, CHF now s/p L THA ([**2142-4-26**]), presents with an
   episode of tachycardia (junctional rhythm), asymptomatic, improved
   overnight with PRBC, fluid bolus.
   .
   # Tachycardia.  Stayed in SR overnight.  Rate hovered around 100,
   dropped to 70s with 500cc bolus of fluid.  BP stable.
   - continue metoprolol 12.5 mg PO bid
   - start warfarin 4mg PO daily at 1600 given h/o atrial fibrillation,
   follow INR
   - cycle cardiac enzymes, last set today at 11:00.
   .
   #. Anemia.  HCt post-op 26, Given 1u PRBC now Hct 31.5
   - Trend HCt, consider transfusing if his HCt does not increase
   appropriately.
   .
   # COPD/eosinophilic lung disease
   - continue albuterol prn, tiopropium, advair, prednisone
   .
   # CHF/CAD
   - continue metoprolol, lasix
   - continue atorvastatin
   .
   # s/p L THA
   - pain control, morphine PCA, standing tylenol/NSAID per ortho, change
   to oral narcotics when tolerating PO.
   - dvt ppx lovenox, bridging to coumadin
   - Vanco at 11AM tomorrow.
   - WBAT
   - posterior precautions (pillow between knees when rolled)
   .
   FEN: No IVF, replete electrolytes, clears, advance as tolerated
   .
   Prophylaxis: lovenox, boots, famotidine
   ICU Care
   Nutrition:
   Comments: Clears, advance as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-4-27**] 12:56 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: Transfer to floor.  d/w Ortho (attg. [**Doctor Last Name 2218**], res. [**Doctor Last Name 11839**])
   & [**Female First Name (un) **] (fel. [**Doctor First Name 11840**] [**Numeric Identifier 11841**]) re : where he will go.
   ------ Protected Section ------
   CRITICAL CARE
   Borderline BP through day with declining UO. C/O thirst but no SOB.
   Exam remains notable for [**3-24**] holosyst m but no crackles.
   Although hct is stable she appears hypovolemic. We are giving IVF with
   close observation of resp status.  BP is low at baseline but this is
   lower than she usually goes.  Will watch closely for next 12 hrs
   Time spent 40 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2142-4-27**] 18:05 ------

2142-04-28 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient noted to have some oozing around surgical site
   - patient had several episodes of SVT (?AVNRT) up to 130
s that broke
   spontaneously
   - spiked to 100.8 o/n
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2142-4-27**] 10:56 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2142-4-27**] 08:09 AM
   Famotidine (Pepcid) - [**2142-4-27**] 09:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-4-28**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 92 (73 - 94) bpm
   BP: 114/44(62) {75/39(51) - 119/61(72)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,062 mL
                                                                    621 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                  4,312 mL
                                                                    621 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    370 mL
   Urine:
                                                                    565 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
                                                                    160 mL
   Balance:
                                                                  4,337 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   9.5 g/dL
   126 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   14 mg/dL
   104 mEq/L
   135 mEq/L
   28.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-4-27**]  03:35 AM
                             [**2142-4-27**]  12:41 PM
                             [**2142-4-28**]  06:11 AM
   WBC
   9.0
   9.4
   Hct
   31.6
   28.7
   Plt
   194
   170
   Cr
   0.7
   TropT
   0.02
   0.02
   Glucose
   126
   Other labs: PT / PTT / INR:16.3//1.4, CK / CKMB /
   Troponin-T:415/5/0.02, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   81 yo F with h/o COPD, CHF now s/p L THA ([**2142-4-26**]), presents with an
   episode of tachycardia (junctional rhythm), asymptomatic, improved
   overnight with PRBC, fluid bolus.
   # Hypotension: Patient BP has been ranging from 70/40s-110s/60s. She is
   completely asymptomatic with low BP
s and is maintaining good UOP.
   Possibilities include bleeding in to L hip post-op, medication related
   (lasix, BB and narcotics) or falsely low BP due to atherosclerosis.
   - pm Hct to eval for bleed
   - will hold BB, lasix and minimize narcotics
   .
   # Tachycardia:  Patient has several episodes of possible SVT (likely
   AVNRT)up to 130
s bpm on tele o/n but converted to NSR at 90
s bpm
   without intervention. INR currently 1.4 from 1.1 yesterday.
   - holding BB due to hypotension
   - will monitor tele and try to obtain EKG if in SVT
   .
   #. Anemia:  Patient with Hct drop post-op to 26. Given 1u PRBC-> Hct
   31.6 and has trended down to 28.7 this am. She as a JP drain in place
   and was noted to have some oozing at surgical site. Patient is
   currently being anticoagualted (LMWH bridge to coumadin) which could
   complicate bleeding from or at surgical site.
   - repeat pm Hct as patient started on coumadin
   .
   # COPD/eosinophilic lung disease
   - continue albuterol prn, tiopropium, advair, prednisone
   .
   # CHF/CAD
   - hold metoprolol, lasix
   - cont atorvastatin
   .
   # s/p L THA
   - pain control, morphine, standing tylenol/NSAID per ortho,
   - dvt ppx lovenox, bridging to coumadin
   - WBAT
   - posterior precautions (pillow between knees when rolled)
   ICU Care
   Nutrition:  advance as tolerated
   Comments:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-4-27**] 12:56 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Physical Exam:
   General: alert, oriented, no acute distress
   HEENT: Sclera anicteric, DMM
   Neck: supple
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Left hip surgical site, with dressing in place.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 9652**], MD
   on:[**2142-4-28**] 12:14 ------

2142-04-28 11:47:00 Physician Attending Progress Note
Chief Complaint: Tachycardia and Hypotension post operatively from
   Total Hip Replacement.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2142-4-27**] 09:11 AM
 ARTERIAL LINE - STOP [**2142-4-27**] 07:00 PM
 CALLED OUT
   Intermittent tachycardia noted overnight and with intermittent
   hypotension requiring IVF bolus seen across this morning.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2142-4-27**] 10:56 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.8
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2142-4-28**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100
   HR: 92 (73 - 94) bpm
   BP: 114/44(62) {77/39(51) - 119/61(72)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,062 mL
                                                                    917 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                  4,312 mL
                                                                    917 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    550 mL
   Urine:
                                                                    565 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                    160 mL
   Balance:
                                                                  4,337 mL
                                                                    367 mL
   Respiratory support
   SpO2: 92%
   ABG: ////
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Bowel sounds present
   Extremities: mild bruising at operative site, distal sensation and
   pulse in tact.
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   170 K/uL
   126 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   14 mg/dL
   104 mEq/L
   135 mEq/L
   28.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-4-27**]  03:35 AM
                             [**2142-4-27**]  12:41 PM
                             [**2142-4-28**]  06:11 AM
   WBC
   9.0
   9.4
   Hct
   31.6
   28.7
   Plt
   194
   170
   Cr
   0.7
   TropT
   0.02
   0.02
   Glucose
   126
   Other labs: PT / PTT / INR:16.3//1.4, CK / CKMB /
   Troponin-T:415/5/0.02, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   81 yo female with history of COPD/CHF now with left total hip
   replacement [**4-26**] and admitted with junctional tachycardia and
   hypotension from PACU
   Hypotension-_This was seen in the immediate post operative state and
   has persistent through to this morning.  This may be multifactorial and
   related to medications with beta-blockers in place and narcotics for
   pain control.  Alternatively acute insults such as blood loss, cardiac
   dysfnction, obstructive sources of impaired cardiac function all are
   important to consider.
   -Will follow HCT and wound site appears reassuring
   -No evidence for sepsis
   -Will monitor for respiratory distress or any evidence of significant
   hypoxia to consider possible source of PE
   -Will evaluate patient cardiac history or evaluate with ECHO
   -Vasodilatory source may be considered with possible effects of
   narcotic medications
   -Will avoid beta blockers with possible contribution to relative
   slowing of HR
   -Will monitor for SVT in this setting
   Total Hip Replacement-
   -Lovenox with Coumadin 1mg qd
   -Naprosyn [**Hospital1 **]/Tylenol 650mg q 6 hours
   -Wound clean and without evidence of bleeding
   COPD-Chronic and without exacerbation
   -Advair to continue
   -Albuterol PRN
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-4-27**] 12:56 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2142-04-29 07:15:00 Physician Resident Progress Note
Chief Complaint: CC: Hypotension
   [**Hospital Unit Name 44**] Admission: tachycardia/hypotension s/p L THA
   24 Hour Events:
   -hypotensive to 70/40s but completely asx and good UOP
   -hct dropped to 25.8, got 1 unit PRBCs
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2142-4-27**] 10:56 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-4-29**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 79 (60 - 95) bpm
   BP: 108/62(73) {60/32(41) - 127/77(80)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,266 mL
                  PO:
                                                                  2,000 mL
                  TF:
   IVF:
                                                                    987 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  1,200 mL
                                                                    360 mL
   Urine:
                                                                  1,200 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,066 mL
                                                                   -360 mL
   Respiratory support
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General: alert, oriented, no acute distress
   HEENT: Sclera anicteric, DMM
   Neck: supple
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Left hip surgical site, with dressing in place.
   Labs / Radiology
   143 K/uL
   8.8 g/dL
   102 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   12 mg/dL
   103 mEq/L
   136 mEq/L
   25.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2142-4-27**]  03:35 AM
                             [**2142-4-27**]  12:41 PM
                             [**2142-4-28**]  06:11 AM
                             [**2142-4-28**]  11:51 AM
                             [**2142-4-28**]  07:47 PM
                             [**2142-4-29**]  05:17 AM
   WBC
   9.0
   9.4
   10.1
   6.7
   Hct
   31.6
   28.7
   25.8
   27.1
   25.9
   Plt
   194
   170
   145
   143
   Cr
   0.7
   0.8
   TropT
   0.02
   0.02
   Glucose
   126
   102
   Other labs: PT / PTT / INR:17.3//1.6, CK / CKMB /
   Troponin-T:415/5/0.02, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Radiology:
   3/13 L hip
   Frontal radiograph of the pelvis and frontal and lateral radiographs of
   the
   left hip again demonstrate a left total hip arthroplasty. Alignment of
   the
   components is satisfactory. There is no periprosthetic fracture.
   Overlying
   skin staples are again noted. Bilateral femoral vascular calcifications
   are
   again seen.
   IMPRESSION:
   Left total hip arthroplasty with satisfactory alignment.
   Assessment and Plan
   81 yo F with h/o COPD, CHF now s/p L THA ([**2142-4-26**]), presents with an
   episode of tachycardia (junctional rhythm), asymptomatic, improved
   overnight with PRBC, fluid bolus.
   # Hypotension: Patient BP has been ranging from 70/40s-110s/60s. She is
   completely asymptomatic with low BP
s and is maintaining good UOP.
   Possibilities include bleeding in to L hip post-op, medication related
   (lasix, BB and narcotics) or falsely low BP due to atherosclerosis.
   - pm Hct to eval for bleed
   - will hold BB, lasix and minimize narcotics
   - consider holding coumadin
   .
   # Tachycardia:  No episodes o/n.
   - holding BB due to hypotension
   - telemetry
   .
   #. Anemia:  Patient with Hct drop yesterday to 15, given 1U PRBC up to
   27, now 25.9.. She as a JP drain in place and was noted to have some
   oozing at surgical site. Patient is currently being anticoagulated
   (LMWH bridge to coumadin) which could complicate bleeding from or at
   surgical site.
   - repeat pm Hct as patient started on coumadin
   .
   # COPD/eosinophilic lung disease
   - continue albuterol prn, tiopropium, advair, prednisone
   .
   # CHF/CAD
   - hold metoprolol, lasix
   - cont atorvastatin
   .
   # s/p L THA
   - pain control, oxycodone prn, standing tylenol/NSAID per ortho,
   - dvt ppx lovenox, bridging to coumadin
   - WBAT
   - posterior precautions (pillow between knees when rolled)
   ICU Care
   Nutrition: advance as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-4-27**] 12:56 AM
   Prophylaxis:
   DVT: Boots, lovenox, coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU

2142-04-29 12:24:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Transfusion of 1 unit PRBC
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2142-4-27**] 10:56 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2142-4-29**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.3
   HR: 74 (60 - 79) bpm
   BP: 112/57(60) {70/39(52) - 121/77(80)} mmHg
   RR: 18 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,266 mL
                                                                    540 mL
   PO:
                                                                  2,000 mL
                                                                    540 mL
   TF:
   IVF:
                                                                    987 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  1,200 mL
                                                                    600 mL
   Urine:
                                                                  1,200 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,066 mL
                                                                    -60 mL
   Respiratory support
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   143 K/uL
   102 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   12 mg/dL
   103 mEq/L
   136 mEq/L
   25.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2142-4-27**]  03:35 AM
                             [**2142-4-27**]  12:41 PM
                             [**2142-4-28**]  06:11 AM
                             [**2142-4-28**]  11:51 AM
                             [**2142-4-28**]  07:47 PM
                             [**2142-4-29**]  05:17 AM
   WBC
   9.0
   9.4
   10.1
   6.7
   Hct
   31.6
   28.7
   25.8
   27.1
   25.9
   Plt
   194
   170
   145
   143
   Cr
   0.7
   0.8
   TropT
   0.02
   0.02
   Glucose
   126
   102
   Other labs: PT / PTT / INR:17.3//1.6, CK / CKMB /
   Troponin-T:415/5/0.02, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: AG-5
   Imaging: Hip--Prosthetics in position
   Assessment and Plan
   81 yo female s/p THR now admitted with post operative hypotension and
   tachycardia treated with IVF support, transfusion and minimization of
   potentially offending medictions without clear evidence of new
   significant septic insult to account for clinical picture.
   1) HYPOTENSION (NOT SHOCK)
   -Lopressor/Lasix held
   _BP improved today
   -Will continue with transfusion
   -Follow exam
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   -Continue with incentive spirometry
   -Will need to continue with MDI
   -Will need to mobilize as soonas possible with hip replacment
   completed.
 ATRIAL FIBRILLATION (AFIB)-
   -Will return lopressor with stability of BP seen ir elevation in HR
   returns.
   S/P THR-
   -Anticoagulation in place
   -Mobilization as possible
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-4-27**] 12:55 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes